US07410966B2
6-Chloro-2-[4-(2-piperidin-1-ylethoxy)phenyl]-3H-imidazo[4,5-b]pyridine
5-Chloropyridin-2,3-diamine (0.200 g, 1.39 mmol) was dissolved in DMF (5 ml). Iron(III)chloride hexahydrate (0.025 g, 0.092 mmol) was added and the mixture heated to 80° C. 4-(2-Piperidin-1-ylethoxy)benzaldehyde (0.33 g, 1.41 mmol) dissolved in DMF (2 ml) was added dropwise, and the reaction mixture was heated at 120° C. for 5 h with air bubbling through the solution. The DMF was removed by evaporation and the solid residue was washed with 1M NaOH and diethyl ether. The crude product was purified by column chromatography (EtOAc/heptane, 1:1), giving the title product (0.017 g, 3%).

reactant | 5-Chloropyridin-2,3-diamine | 1.39 mmol, 0.200 g | ClC=1C=C(C(=NC1)N)N | C5H6ClN3
reactant | 4-(2-Piperidin-1-ylethoxy)benzaldehyde | 1.41 mmol, 0.33 g | N1(CCCCC1)CCOC1=CC=C(C=O)C=C1 | C14H19NO2
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
catalyst | Iron(III)chloride hexahydrate | 0.092 mmol, 0.025 g | O.O.O.O.O.O.[Fe](Cl)(Cl)Cl
product | 6-Chloro-2-[4-(2-piperidin-1-ylethoxy)phenyl]-3H-imidazo[4,5-b]pyridine | 0.017 g, 3% | ClC=1C=C2C(=NC1)NC(=N2)C2=CC=C(C=C2)OCCN2CCCCC2 | C19H21ClN4O
